* Advanced-v2 synapse device model
* Pin order: G D S
* Validated mainly at VDS = 1 V

.SUBCKT SYNAPSE_ADV_V2 G D S PARAMS:
+ G0=0
+ G1=0
+ G2=0
+ G3=0
+ G11=0.000663574393119
+ G12=0.00122698089109
+ G13=4.42225017007e-05
+ G23=0.000671314326731
+ GV=6.561726644e-06
+ VTH=0.679973290013
+ VNORM=2
+ PDRIVE=1.1281797291
+ RON1=651321.797132
+ ROFF1=58783.4118027
+ RON2=6453.3547737
+ ROFF2=7225.92691131
+ RON3=54391.4170977
+ ROFF3=22092.0764053

* Normalized gate excitation
BDRV Q 0 V=pow(max((V(G,S)-{VTH})/({VNORM}-{VTH}),0),{PDRIVE})

* Slow state X1
BX1 XF Q I=if(V(G,S)>{VTH},(V(XF)-V(Q))/{RON1},V(XF)/{ROFF1})
CF XF 0 1u

* Fast state X2
BX2 XS Q I=if(V(G,S)>{VTH},(V(XS)-V(Q))/{RON2},V(XS)/{ROFF2})
CS XS 0 1u

* Medium-speed state X3
BX3 X3 Q I=if(V(G,S)>{VTH},(V(X3)-V(Q))/{RON3},V(X3)/{ROFF3})
C3 X3 0 1u

* Small leakage resistors for numerical convergence
RLEAK1 XF 0 1T
RLEAK2 XS 0 1T
RLEAK3 X3 0 1T

* Drain-source conductive channel
BCH D S I=V(D,S)*max({G0}+{G1}*V(XF)+{G2}*V(XS)+{G3}*V(X3)+{G11}*V(XF)*V(XF)+{G12}*V(XF)*V(XS)+{G13}*V(XF)*V(X3)+{G23}*V(XS)*V(X3)+{GV}*V(Q),0)

.ENDS SYNAPSE_ADV_V2
