* Variable-Rload numerically stable NbOx oscillator
* Pins:
*   1 VIN
*   2 OUTPUT
*   3 GND
*   4 PCTRL
*
* PCTRL numerically represents the raw pressure ADC value.
* PCTRL <= 75: Rload = 1T, approximately open circuit.
* PCTRL > 75 : Rload = 900k/(PCTRL-75), limited to 5k...1T.

.SUBCKT NbOx_OSC_VAR VIN OUTPUT GND PCTRL PARAMS:
+ VH=1.676 VL=1.127
+ Rin=89213.44 Rme=806
+ Cparal=1u
+ A=1000000 Rstate=1 Cstate=100n

* Renamed functions avoid conflicts with NbOx_OSC_stable.lib.
.FUNC Vpos_var()=
+ VL+(VH-VL)*V(cap,GND)

.FUNC Vcompare_var()=
+ 0.5*(1+tanh(2*A*(V(pos,GND)-V(nega,GND))))

.FUNC Rnbox_var()=
+ Rin*Rme/(Rin*abs(1-V(cap,GND))+Rme*V(cap,GND))

* Hysteresis threshold and state.
B1 pos GND V=Vpos_var()
B2 nega GND V=V(OUTPUT,GND)
B3 state GND V=Vcompare_var()

RSTATE state cap {Rstate}
CSTATE cap nbias {Cstate} IC=1
VBIAS nbias GND 1

* NbOx resistance.
B4 resis GND V=Rnbox_var()
RDEVICE OUTPUT GND R=V(resis,GND)

* Pressure-controlled load resistance.
*
* max(...,1u) prevents division by zero.
* 1T approximates open circuit.
* 5k is the minimum load resistance.
BLOAD VIN OUTPUT R=if(
+ V(PCTRL,GND)<=75,
+ 1T,
+ limit(
+   900k/max(V(PCTRL,GND)-75,1u),
+   5k,
+   1T
+ )
+ )

CPAR_OUT OUTPUT GND {Cparal}

.ENDS NbOx_OSC_VAR