* Numerically stable NbOx oscillation subcircuit
* Pins: VIN OUTPUT GND

.SUBCKT NbOx_OSC VIN OUTPUT GND PARAMS:
+ VH=1.676 VL=1.127
+ Rin=89213.44 Rme=806
+ Rload=10k Cparal=1u
+ A=1000000 Rstate=1 Cstate=100n

* The threshold follows the stored state (cap), not B3's instantaneous
* output.  This breaks the B3 -> state -> threshold -> B3 algebraic loop.
.FUNC Vpos_f()=VL+(VH-VL)*V(cap,GND)
.FUNC Vcompara_f()=0.5*(1+tanh(2*A*(V(pos,GND)-V(nega,GND))))
.FUNC Rnbox_f()=Rin*Rme/(Rin*abs(1-V(cap,GND))+Rme*V(cap,GND))

B1 pos GND V=Vpos_f()
B2 nega GND V=V(OUTPUT,GND)
B3 state GND V=Vcompara_f()

RSTATE state cap {Rstate}
CSTATE cap nbias {Cstate} IC=1
VBIAS nbias GND 1

B4 resis GND V=Rnbox_f()
RDEVICE OUTPUT GND R=V(resis,GND)

RLOAD_IN VIN OUTPUT {Rload}
CPAR_OUT OUTPUT GND {Cparal}

.ENDS NbOx_OSC
